US06916807B2
4-(2-{4-[5-(6,8,10-Trioxo-1,7,9-triaza-spiro[4.5]dec-1-yl)-pyridin-2-yloxy]-phenyl}-oxazol-4-yl)-benzonitrile
To a flame dried flask was added ethanol (6 mL) and freshly cut sodium metal (62.4 mg, 2.71 mmol). The solution was stirred until homogenous. Recrystallized urea (98 mg, 1.63 mmol) was added and the solution was stirred at room temperature for 5 minutes. 1-(6-{4-[4-(4-Cyano-phenyl)-oxazol-2-yl]-phenoxy}-pyridin-3-yl)-pyrrolidine-2,2-dicarboxylic acid diethyl ester (300 mg, 0.54 mmol) was added as a solid and the solution was heated to 80° C. for 30 minutes, then cooled to 50° C. and stirred for 16 hours. The reaction was then quenched by the addition of 10 mL water and 1N hydrochloric acid was added to adjust the pH to 5. The aqueous layer was extracted with ethyl acetate (3×20 mL). The combined ethyl acetate layers were washed with saturated sodium chloride, dried with magnesium sulfate, filtered, and concentrated under vacuum to produce 290 mg of crude product. This material was chromatographed on silica gel (ISCO MPLC purification, 30 minutes, 50-100% ethyl acetate gradient, Biotage flash 40 s column) to provide 78 mg of a product which required further purification. Reverse-phase HPLC on a portion of this material provided 15 mg of the title compound as a white solid. MS m/z: ESI+ 521.1 (M+H)+; ESI− 519.3 (M−H)−.

reactant | sodium | 2.71 mmol, 62.4 mg | [Na] | Na
reactant | urea | 1.63 mmol, 98 mg | NC(=O)N | CH4N2O
reactant | 1-(6-{4-[4-(4-Cyano-phenyl)-oxazol-2-yl]-phenoxy}-pyridin-3-yl)-pyrrolidine-2,2-dicarboxylic acid diethyl ester | 0.54 mmol, 300 mg | C(C)OC(=O)C1(N(CCC1)C=1C=NC(=CC1)OC1=CC=C(C=C1)C=1OC=C(N1)C1=CC=C(C=C1)C#N)C(=O)OCC | C31H28N4O6
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 4-(2-{4-[5-(6,8,10-Trioxo-1,7,9-triaza-spiro[4.5]dec-1-yl)-pyridin-2-yloxy]-phenyl}-oxazol-4-yl)-benzonitrile | 78 mg | O=C1C2(CCCN2C=2C=CC(=NC2)OC2=CC=C(C=C2)C=2OC=C(N2)C2=CC=C(C#N)C=C2)C(NC(N1)=O)=O | C28H20N6O5
